US07317012B2
1A. Preparation of 2-benzyl-5-(4-chlorophenyl)-6-hydroxypyridazin-3(2H)-one
To a suspension of 3-(4-chlorophenyl)-2,5-furandione (10.24 g, 66.9 mmol) in acetic acid (300 mL) was added benzylhydrazine dihydrochloride in one portion (19.6 g, 100 mmol). The reaction mixture was stirred at reflux for 14 h. Analysis by HPLC/MS indicated the reaction was complete. After cooling to room temperature, the resulting white suspension was filtered. The collected solid was washed with EtOAc (20 mL×2), and dried in a 50° C. vacuum oven for 16 h to yield 6.5 g of the desired product as a white solid. The filtrate was concentrated under reduced pressure, and the obtained residue was crystallized in EtOAc to afford additional 1.6 g of the title compound (8.1 g in total, 39% yield). LC/MS (method A): retention time=3.30 min, (M+H)+=313. 1H NMR (DMSO-d6, 500 MHz): δ 11.62 (s, 1H), 7.65 (d,J=10 Hz, , 2H), 7.51 (d,J=10 Hz, 2H), 7.23-7.38 (m, 5H), 7.04 (s, 1H), 5.11 (s, 2H).

reactant | 3-(4-chlorophenyl)-2,5-furandione | 66.9 mmol, 10.24 g | ClC1=CC=C(C=C1)C=1C(OC(C1)=O)=O | C10H5ClO3
reactant | benzylhydrazine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)NN
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | 2-benzyl-5-(4-chlorophenyl)-6-hydroxypyridazin-3(2H)-one | 6.5 g | C(C1=CC=CC=C1)N1N=C(C(=CC1=O)C1=CC=C(C=C1)Cl)O | C17H13ClN2O2
